US08012966B2
A stirred solution of 1-oxa-6-aza-spiro[2.5]octane-6-carboxylic acid tert-butyl ester (9.0 g, 42.2 mmol) in ethanol (60 ml) was added with ammonia (100 ml). The resulting mixture was stirred under a nitrogen atmosphere overnight. The mixture was concentrated under reduced pressure. The residue was added with water (50 ml) and extracted with ethyl acetate (150 ml×3). The combined organic extracts were dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel column chromatography with dichloromethane:methanol (20:1) as eluents to give 4-aminomethyl-4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (5.87 g, 60.5%) as a white solid.

reactant | 1-oxa-6-aza-spiro[2.5]octane-6-carboxylic acid tert-butyl ester | 42.2 mmol, 9.0 g | C(C)(C)(C)OC(=O)N1CCC2(CO2)CC1 | C11H19NO3
reactant | ammonia | 100 ml | N | H3N
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 4-aminomethyl-4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 5.87 g, 60.5% | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)CN | C11H22N2O3
